US08580777B2
A. tert-Butyl 2-(benzhydrylideneamino)-3-(6-tert-butoxycarbonylaminopyridin-3-yl)propionate
84.64 ml (84.64 mmol) of a 1M solution of lithium bis(trimethylsilyl)amide in THF were added dropwise to a solution of 25.00 g (84.64 mmol) of N-(diphenylmethylene)glycine tert-butyl ester in 185 ml of THF under argon at 0° C. After stirring at this temperature for 15 min, 24.31 g (84.64 mmol) of tert-butyl (5-bromomethylpyridin-2-yl)carbamate were added as solid, and stirring was continued for 1 h. The reaction mixture was cautiously diluted with water and extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered and concentrated. 44.08 g of the crude product were obtained and were reacted further without further purification.

reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-(diphenylmethylene)glycine tert-butyl ester | 84.64 mmol, 25.00 g | C(C)(C)(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21NO2
reactant | tert-butyl (5-bromomethylpyridin-2-yl)carbamate | 84.64 mmol, 24.31 g | BrCC=1C=CC(=NC1)NC(OC(C)(C)C)=O | C11H15BrN2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 185 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-Butyl 2-(benzhydrylideneamino)-3-(6-tert-butoxycarbonylaminopyridin-3-yl)propionate | 44.08 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C(=O)OC(C)(C)C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C | C30H35N3O4
